US06908913B2
7-[[(2S,4R)-4-t-Butyldimethylsilyloxy-1-(4-nitrobenzyloxycarbonyl)pyrrolidin-2-yl]hydroxymethyl]-imidazo[5,1-b]thiazole (4.18 g) was prepared in the same manner as in step a) of Synthesis Example 1, except that 3.39 g of 7-iodoimidazo[5,1-b]thiazole and 4.61 g of (2S,4R)-4-t-butyldimethylsilyloxy-1-(4-nitrobenzyloxycarbonyl)pyrrolidine-2-aldehyde were used as the starting compounds.

reactant | 7-iodoimidazo[5,1-b]thiazole | 3.39 g | IC=1N=CN2C1SC=C2 | C5H3IN2S
reactant | (2S,4R)-4-t-butyldimethylsilyloxy-1-(4-nitrobenzyloxycarbonyl)pyrrolidine-2-aldehyde | 4.61 g | [Si](C)(C)(C(C)(C)C)O[C@@H]1C[C@H](N(C1)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])C=O | C19H28N2O6Si
product | 7-[[(2S,4R)-4-t-Butyldimethylsilyloxy-1-(4-nitrobenzyloxycarbonyl)pyrrolidin-2-yl]hydroxymethyl]-imidazo[5,1-b]thiazole | 4.18 g | [Si](C)(C)(C(C)(C)C)O[C@@H]1C[C@H](N(C1)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])C(C=1N=CN2C1SC=C2)O | C24H32N4O6SSi
